US07622533B2
2.1 g of p(EG1k-Asp) (1.77 mmol —NH2) was dissolved in 30 mL of DCM and 15 mL of DMF. 842 mg of N-Boc-DOPA (2.83 mmol), 382 mg of HOBt (2.83 mmol), HBTU (2.83 mmol), and 595 μL of Et3N (4.25 mmol) were added. The mixture was stirred for 1 hr at room temperature and added to 450 mL ethyl ether. The polymer was further precipitated in cold MeOH and dried in vacuum to yield 1.9 g of PEE-1 (GPC: Mw=33,800, PD=1.3; UV-vis: 7.7±1.3 wt % DOPA).

reactant | N-Boc-DOPA | 2.83 mmol, 842 mg | C(=O)(OC(C)(C)C)N[C@H](C(=O)O)CC1=CC=C(O)C(O)=C1 | C14H19NO6
reactant | HOBt | 2.83 mmol, 382 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 2.83 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 4.25 mmol, 595 μL | CCN(CC)CC | C6H15N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | 450 mL | C(C)OCC | C4H10O
product | DOPA | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
